* source ANÁLISIS EN AC
R_Rin         VIN N14700  1k TC=0,0 
R_rg         N14608 N14689  1k TC=0,0 
R_rd         N14547 N14543  20k TC=0,0 
R_rs         0 N14831  1k TC=0,0 
R_rl         0 VOUT  100k TC=0,0 
X_U1         N14547 N14608 N14831 2N7000
C_C1         N14700 N14608  22u  TC=0,0 
C_C2         N14547 VOUT  22u  TC=0,0 
V_V1         VIN 0  AC 0
+SIN 0 0.1 5k 0 0 0
V_V2         N14689 0 2.51v
V_V3         N14543 0 10v
