* source 2N2222
R_RB         N15660 N16154  50k TC=0,0 
V_Vcc         N16036 0 1
V_VBB         N15660 0 0Vdc
X_Q4         N16036 N16154 0 awb2n2222a PARAMS:                                
+             
