* source ANALISIS DC
V_V1         N15030 0 10Vdc
R_R1         N15080 N15030  1k TC=0,0 
V_V2         N15116 VI 1.845
V_V3         VI 0  AC 0
+SIN 0 0.1 1k 0 0 0
X_Q1         N15080 N15116 0 awb2n7000 PARAMS:                                 
+      BYPASS_L=1 MTYPE=1
