* source ANALISIS DC
V_12v         N18211 0 12
R_R1         B N18211  10k TC=0,0 
R_Rc         C N18211  3.3k TC=0,0 
Q_Q2         C B E Q2N2222A
R_R2         0 B  680 TC=0,0 
R_Re         0 E  51 TC=0,0 
