* source ANALISISAC
R_Rin         VIN N15567  1k TC=0,0 
V_V2         N15413 0 2.51v
C_C1         N15567 N15505  22u  TC=0,0 
R_rl         0 VOUT  100k TC=0,0 
R_rd         N15449 N15409  20k TC=0,0 
V_V1         VIN 0  AC 0
+SIN 0 0.1 100k 0 0 0
R_rg         N15505 N15413  1k TC=0,0 
X_U1         N15449 N15505 N15583 2N7000
C_C2         N15449 VOUT  22u  TC=0,0 
V_V3         N15409 0 10v
R_rs         0 N15583  1k TC=0,0 
