* source PRACTICA4
V_V1         N14465 0  AC 0
+SIN 0 169.2 60 0 0 0
L_L1         0 N14472  2040mH  
L_L2         0 N14501  5.1mH  
C_C1         0 N14508  2200u  TC=0,0 
R_R1         N14465 N14472  1 TC=0,0 
R_Rl         0 N14508  100 TC=0,0 
D_D1         N14501 N14508 D1N4004 
Kn_K1         L_L1 L_L2     1
