* source PRACTICA5
D_D4         0 N15131 D1N4001 
D_D1         N15131 N15286 D1N4001 
D_D3         0 N15213 D1N4001 
D_D2         N15213 N15286 D1N4001 
C_C1         0 N15286  100u  TC=0,0 
R_R1         N16424 N15286  1k TC=0,0 
L_L2         N15213 N15131  5.1mH  
R_R2         N15121 N15111  1 TC=0,0 
L_L1         N15213 N15121  734.4mH  
V_V1         N15111 N15213  AC 0
+SIN 0 169.2 60 0 0 0
Kn_K1         L_L1 L_L2     1
R_R3         0 N16424  1k TC=0,0 
D_D5         0 N16424 D1N4736 
