* source PRACTICA6
V_V1         N18412 N20497  AC 0
+SIN 0 28.2843 60 0 0 0
D_D1         N18412 N18427 D1N4007 
D_D2         N20497 N18427 D1N4007 
C_C1         0 N18427  352.76uf  TC=0,0 
C_C2         0 N18427  0.1uf  TC=0,0 
R_R3         0 N18896  1.3k TC=0,0 
R_R4         N18896 N18969  9.1k TC=0,0 
R_R5         N18529 N18427  1.5k TC=0,0 
C_C3         0 N18969  1uf  TC=0,0 
X_U1         N18427 N18896 N18969 LM317
D_D3         N18529 0 D1N4148 
R_R6         0 N18969  100 TC=0,0 
