* source PRACTICA9
V_V1         N14394 0 10Vdc
R_R1         N14461 N14394  1k TC=0,0 
V_V2         N14465 0 2.288
X_U1         N14461 N14465 0 2N7000
