* source RECTIFICADOR_ONDA_COMPLETA
V_V1         N14712 0  AC 0
+SIN 0 169.2 60 0 0 0
L_L1         0 N14719  2040mH  
L_L2         0 N14538  5.1mH  
D_D1         N14538 N14542 D1N4004 
D_D2         N14558 0 D1N4004 
D_D3         N14558 N14538 D1N4004 
D_D4         0 N14542 D1N4004 
R_R1         N14558 N14542  100 TC=0,0 
R_R2         N14719 N14712  1 TC=0,0 
C_C1         N14558 N14542  4700u  TC=0,0 
Kn_K1         L_L1 L_L2     1
